US05919935
8-methoxypsoralen (4.32 g, 20.0 mmol), obtained from Aldrich Chemical Company was dissolved in tetrahydrofuran (50 mL). To the mixture was added dropwise, with stirring, elemental bromine (4.0 g, 25 mmol) over 20 min at room temperature. The reaction mixture turned red when bromine was added. Precipitate appeared in 5 min. Extra bromine was consumed by solvent tetrahydrofuran in an extended 2 hr stirring or by the addition of 10% sodium thiosulfate solution. The crude product was collected by filtration and was purified with recrystallization from ethanol to give the product 5-bromo-8-methoxypsoralen (5.38 g, 91% yield) as a white solid. mp 178-80° C. 1H--NMR (DMSO(dimethylsulfoxide)--d6, ppm): 8.22(d, J=2.2 Hz, 1H), 8.11 (d, J=9.9 Hz, 1H),7.01(d,J=2.2 Hz, 1H),6.53(d, J=9.9 Hz, 1H),4.17(s,3H).

reactant | 8-methoxypsoralen | 20.0 mmol, 4.32 g | COC1=C2C(C=CO2)=CC3=C1OC(=O)C=C3 | C12H8O4
reactant | bromine | 25 mmol, 4.0 g | BrBr | Br2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 5-bromo-8-methoxypsoralen | 5.38 g, 91% yield | COC1=C2C(=C(C3=C1OC(=O)C=C3)Br)C=CO2 | C12H7BrO4
